US07507828B2
To a mixture of methyl mercaptoacetate (5.30 g, 50 mmol) and triphenylmethanol (13.0 g, 50 mmol) in chloroform (20 mL) was added trifloroacetic acid (5 mL) in 5 min. After stirring at room temperature for 1 h, the volatiles were removed in vacuo. The crude product was purified by recrystallization (dichloromethane/Hexane=1/2) to provide Tritylsulfanyl-acetic acid methyl ester (15.9 g, 91%). 1H NMR (300 MHz, CDCl3) δ 7.44-7.38 (m, 6H), 7.34-7.18 (m, 9H), 3.58 (s, 3H), 2.98 (s, 2H).

reactant | methyl mercaptoacetate | 50 mmol, 5.30 g | SCC(=O)OC | C3H6O2S
reactant | triphenylmethanol | 50 mmol, 13.0 g | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
reactant | trifloroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | Tritylsulfanyl-acetic acid methyl ester | 15.9 g, 91% | COC(CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H20O2S
